* ngspice-oriented behavioral approximation for the TPS63070 port topology.
*
* TI’s PSPICE ZIP (product collateral slvmbp8a) uses PSPICE-exclusive double-brace IF() forms
* in hierarchical gate macros; upstream ngspice batch cannot parse that deck.
*
* This file keeps the same .SUBCKT name and pin order so KiCad spice netlists and overlays match.
* It is only for toolchain / DC sanity (not TI bit-accurate transient behavior). For PSPICE-compatible
* simulation use TI’s original download from TI.com instead of this stub.
*
* Pins: EN FB FB2 GND L1 L2 PG PGND PS_SYNC VAUX VIN_0 VIN_1 VOUT_0 VOUT_1 VSEL
.SUBCKT TPS63070_TRANS EN FB FB2 GND L1 L2 PG PGND PS_SYNC VAUX VIN_0 VIN_1 VOUT_0 VOUT_1 VSEL
Bvout VOUT_0 PGND V=(V(EN,GND)>0.8)*(V(VIN_0,GND)>1.5)*(3.3)
Rl1 L1 VOUT_0 1u
Rl2 L2 PGND 1u
Rfb FB GND 1G
Rf2 FB2 GND 1G
Rva VAUX PGND 1G
Ren EN GND 1G
Rvs VSEL GND 1G
Rps PS_SYNC PGND 1G
Rpg PG PGND 10Meg
Rv1 VIN_0 PGND 1G
Rv2 VIN_1 PGND 1G
.ENDS TPS63070_TRANS
