* ngspice-oriented behavioral approximation for the TPS63070 port topology.
*
* TI’s PSPICE ZIP (product collateral slvmbp8a) uses PSPICE-exclusive double-brace IF() forms
* in hierarchical gate macros; upstream ngspice batch cannot parse that deck.
*
* This file keeps the same .SUBCKT name and pin order so KiCad spice netlists and overlays match.
* For PSPICE-compatible simulation use TI’s original download from TI.com instead of this stub.
*
* --- Fidelity note (vs fixed-output predecessor) ---
* Output B-source implements **ideal regulation closure**: when enabled and UVLO satisfied,
* V(VOUT_0,PGND) ≈ V_REF / beta where beta = V(FB)/V(VOUT) from the external divider (V_REF≈0.8).
* Algebraically equivalent to holding FB ≈ V_REF when beta matches board resistors — closer than hard-coded 3.3 V.
* Bootstrap (V_BOOT while abs(V(FB)) < FB_ABS_BOOT) escapes Vout=0 convergence during OP/startup; adjust V_BOOT for alternate feedback BOMs.
* UVLO uses max(V(VIN_0),V(VIN_1)) vs GND so a deck that only biases one input pin (the other bleeds toward PGND via megohm stubs) still enables when that rail is up; real boards should tie both VIN pins.
* Still **not** switching ripple, EMI, or TI PSPICE timing-accurate behavior.
*
* Pins: EN FB FB2 GND L1 L2 PG PGND PS_SYNC VAUX VIN_0 VIN_1 VOUT_0 VOUT_1 VSEL
.SUBCKT TPS63070_TRANS EN FB FB2 GND L1 L2 PG PGND PS_SYNC VAUX VIN_0 VIN_1 VOUT_0 VOUT_1 VSEL
.param V_REF=0.8 FB_MIN=5m V_OUT_CAP=8 V_BOOT=3.31 FB_ABS_BOOT=2m
Bvout VOUT_0 PGND V={(V(EN,GND)>0.8)*(max(V(VIN_0,GND),V(VIN_1,GND))>1.5)*((abs(V(FB,GND))<FB_ABS_BOOT) ? V_BOOT : min(V_OUT_CAP,max(50m,V_REF*V(VOUT_0,PGND)/max(V(FB,GND),FB_MIN))))}
Rl1 L1 VOUT_0 1u
Rl2 L2 PGND 1u
Rfb FB GND 1G
Rf2 FB2 GND 1G
Rva VAUX PGND 1G
Ren EN GND 1G
Rvs VSEL GND 1G
Rps PS_SYNC PGND 1G
Rpg PG PGND 10Meg
Rv1 VIN_0 PGND 1G
Rv2 VIN_1 PGND 1G
.ENDS TPS63070_TRANS
